US09120749B2
1-(6-bromo-4-((4-((dimethylamino)methyl)phenyl)amino)quinolin-3-yl)butan-1-one
Following general procedure C, 1-(6-bromo-4-chloroquinolin-3-yl)butan-1-one (470 mg, 1.50 mmol) was reacted with 4-((dimethylamino)methyl)aniline (451 mg, 3 mmol) to afford the desired product (402 mg, 63%) as a yellow solid. ESI MS m/z 426 [C22H24BrN3O+H]+

reactant | 1-(6-bromo-4-chloroquinolin-3-yl)butan-1-one | 1.50 mmol, 470 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(CCC)=O)Cl | C13H11BrClNO
reactant | 4-((dimethylamino)methyl)aniline | 3 mmol, 451 mg | CN(C)CC1=CC=C(N)C=C1 | C9H14N2
product | 1-(6-bromo-4-((4-((dimethylamino)methyl)phenyl)amino)quinolin-3-yl)butan-1-one | 402 mg, 63% | BrC=1C=C2C(=C(C=NC2=CC1)C(CCC)=O)NC1=CC=C(C=C1)CN(C)C | C22H24BrN3O
